US04925653
benzyl cinnamate
2-ethylhexyl α-cyano-β-phenylcinnamate, sold under the trade name Uvinul N 539

reactant | 2-ethylhexyl α-cyano-β-phenylcinnamate | C(#N)C(C(=O)OCC(CCCC)CC)=C(C1=CC=CC=C1)C1=CC=CC=C1 | C24H27NO2
reactant | Uvinul | CCCCC(CC)COC(=O)C=1C=CC=CC1O | C15H22O3
product | benzyl cinnamate | C(C=CC1=CC=CC=C1)(=O)OCC1=CC=CC=C1 | C16H14O2
